US05618965
With stirring (20 rpm), a turbine dryer is charged at room temperature with 1007 parts by weight of anhydrous sodium sulfate, 222 parts by weight of biphenyl-4-carbaldehyde and 105 parts by weight of hydroxylammonium sulfate. Following evacuation to 13 mbar, the mixture is heated to 70° C. and stirred at this temperature for 3 hours. It is subsequently heated at 130° C., during which about 43 parts by weight of water are removed by distillation. After half an hour, the pressure is reduced to 4 mbar and the jacket temperature is raised successively to 170° C. over the course of 60-70 minutes, the product undergoing fractional distillation. 194 parts by weight of biphenyl-4-carbonitrile are obtained with an outstanding purity of ~98-99% (HPLC) and a melting point of 83°-85° C., along with 10 parts by weight of a less pure fraction.

reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | biphenyl-4-carbaldehyde | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | hydroxylammonium sulfate | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
solvent | water | O | H2O
product | biphenyl-4-carbonitrile | C1(=CC=C(C=C1)C#N)C1=CC=CC=C1 | C13H9N
